US05072038
62 g of NaBH4 are initially introduced into 320 ml of dioxane. A solution of 319 g of 5-chloro-2,3,4-trifluorobenzoyl fluoride in 640 ml of dioxane is run into this, at the reflux temperature, over the course of 6 hours. After boiling under reflux for a further hour, the mixture is poured onto ice, the pH is adjusted to 1 with dilute hydrochloric acid, and the organic phase is extracted with methylene chloride and then distilled: 261 g of 2,3,4-trifluoro-5-chlorobenzyl alcohol of boiling point 109° C./12 mbar are obtained.

reactant | NaBH4 | 62 g | [BH4-].[Na+]
reactant | 5-chloro-2,3,4-trifluorobenzoyl fluoride | 319 g | ClC=1C(=C(C(=C(C(=O)F)C1)F)F)F | C7HClF4O
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 640 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 320 ml | O1CCOCC1 | C4H8O2
product | 2,3,4-trifluoro-5-chlorobenzyl alcohol | 261 g | FC1=C(CO)C=C(C(=C1F)F)Cl | C7H4ClF3O
